* C:\Users\Client\Documents\Derdejaar\E- design 344\Github Repo\E344\LTSpice\Voltage Regulators.asc
V1 N001 0 9
XU1 N001 0 OUT LM7805
C1 N001 0 330n
C2 OUT 0 100n
Rload1 OUT 0 50
XU2 N002 NC_01 N005 0 N004 0 LM2595_ADJ_TRANS
C3 N003 0 220µ
L1 N004 N003 47µ
C4 N005 0 220
Rload N003 0 50
V2 IN 0 9
R2 N003 N002 3.065k
R1 N002 0 1k
C5 N003 N002 10.525n
D1 0 N004 1N5819
R3 N005 IN 1
.model D D
.lib C:\Users\Client\Documents\LTspiceXVII\lib\cmp\standard.dio
.incl LM78XX_RS.LIB
.tran 3m
;step param Iload .2 1.2 .1
;tran 0 2.1m 2m startup
.meas Pin AVG -V(IN)*I(V2)
.meas Pout AVG V(OUT)*I(Rload)
.meas Eff param Pout/Pin
.lib C:\Users\Client\Documents\Derdejaar\E- design 344\Github Repo\E344\LTSpice\LM78XX_RS.lib
.lib C:\Users\Client\Documents\Derdejaar\E- design 344\Github Repo\E344\LTSpice\LM2595_ADJ_TRANS.LIB
.backanno
.end
